US09290490B2
A suspension of sodium hydride (60% in mineral oil, 122 mg, 3.06 mmol) in THF (10 mL) was cooled to 0° C., and diethyl[(5-bromo-1,3-thiazol-2-yl)methyl]phosphonate (769 mg, 2.448 mmol) in THF (2 mL) was added dropwise and subsequently stirred at 0° C. for 30 minutes. Ethyl 4-oxocyclohexanecarboxylate (417 mg, 2.448 mmol) in THF (2 mL) was then added, and allowed to warm to room temperature over 2 h. Then, the reaction was diluted with saturated ammonium chloride and extracted with ethyl acetate (2×). The combined organic layers were washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (0-10% ethyl acetate in hexanes) to afford ethyl 4-[(5-bromo-1,3-thiazol-2-yl)methylidene]cyclohexanecarboxylate as a yellow oil. MS ESI calc'd. for C13H17BrNO2S [M+H]+ 330, 332. found 330, 332. 1H NMR (600 MHz, CDCl3) δ 7.62 (s, 1H), 6.34 (s, 1H), 4.14 (q, J=7.1 Hz, 2H), 3.41-3.33 (m, 1H), 2.60-2.52 (m, 1H), 2.47-2.40 (m, 1H), 2.31-2.19 (m, 2H), 2.12-2.02 (m, 2H), 1.80-1.63 (m, 2H), 1.26 (t, J=7.1 Hz, 3H).

reactant | sodium hydride | 3.06 mmol, 122 mg | [H-].[Na+]
reactant | diethyl[(5-bromo-1,3-thiazol-2-yl)methyl]phosphonate | 2.448 mmol, 769 mg | C(C)OP(OCC)(=O)CC=1SC(=CN1)Br | C8H13BrNO3PS
reactant | Ethyl 4-oxocyclohexanecarboxylate | 2.448 mmol, 417 mg | O=C1CCC(CC1)C(=O)OCC | C9H14O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | ethyl 4-[(5-bromo-1,3-thiazol-2-yl)methylidene]cyclohexanecarboxylate | BrC1=CN=C(S1)C=C1CCC(CC1)C(=O)OCC | C13H16BrNO2S
